* 
* Linear Technology LM10C op amp model
* Written: 08-13-1990 12:54:51 Type: Bipolar pnp input, internal comp.
* Typical specs: 
* Vos=5.0E-04, Ib=1.2E-08, Ios=4.0E-10, GBP=1.0E+05Hz, Phase mar.= 30 deg, 
* SR(-)=1.5E-01V/us, SR(+)=1.4E-01V/us, Av= 114 dB, CMMR= 102 dB, 
* Vsat(+)=0.01V, Vsat(-)=0.01V, Isc=+/-20.0mA, Iq=300uA.
* (input common mode clamp active)
* 
* Connections: + - V+V-O RoRf
.SUBCKT LM10C 3 2 7 4 6 1 8
RC1 4 80 5.305E+04
RC2 4 90 5.305E+04
Q1 80 102 10 QM1 
Q2 90 103 11 QM2 
RB1 2 102 4.000E+03
RB2 3 103 4.000E+03
DCM1 105 102 DM2 
DCM2 105 103 DM2 
VCMC 105 4 4.000E-01
C1 80 90 2.598E-11
RE1 10 12 4.134E+04
RE2 11 12 4.134E+04
IEE 7 12 4.524E-06
RE 12 0 4.421E+07
CE 12 0 1.579E-12
* INTERMEDIATE 
GCM 0 85 12 0 1.497E-10
GA 85 0 80 90 1.885E-05
R2 85 0 1.000E+05
C2 15 85 3.000E-11
GB 15 0 85 0 2.455E+02
* OUTPUT 
RO1 15 110 1.000E+02
RO2A 15 0 1.083E+03
RO2B 6 110 8.170E+02
EC 17 0 110 0 1
D1 15 17 DM1
D2 17 15 DM1
D3 110 13 DM2 
D4 14 110 DM2 
D5 6 110 DM2 
D6 110 6 DM2 
VC 7 13 8.075E-01
VE 14 4 8.075E-01
IP 7 4 2.955E-04
DSUB 4 7 DM2 
* REFERENCE
ER 1 4 8 200 70E3
VR 200 4 0.200
RRIN 200 4 1E9
IBR 8 4 22E-9
* MODELS 
.MODEL QM1 PNP (IS=8.000E-16 BF=1.844E+02)
.MODEL QM2 PNP (IS=8.156E-16 BF=1.907E+02)
.MODEL DM1 D (IS=2.784E-32)
.MODEL DM2 D (IS=8.000E-16 BV=4.9500E+01)
*
.ENDS LM10C
* 
* - - - - - * FINI LM10C * - - - - - * [OAMM VP02 6/26/90]
***
*         (C) COPYRIGHT LINEAR TECHNOLOGY CORPORATION 1990
*                       All rights reserved.
* 
*   Linear Technology Corporation hereby grants the users of this
* macromodel a non-exclusive, nontransferrable license to use this
*            macromodel under the following conditions:
* 
* The user agrees that this macromodel is licensed from Linear
* Technology and agrees that the macromodel may be used, loaned,
* given away or included in other model libraries as long as this
* notice and the model in its entirety and unchanged is included.
* No right to make derivative works or modifications to the
* macromodel is granted hereby.  All such rights are reserved.
* 
* This model is provided as is.  Linear Technology makes no
* warranty, either expressed or implied about the suitability or
* fitness of this model for any particular purpose.  In no event
* will Linear Technology be liable for special, collateral,
* incidental or consequential damages in connection with or arising
* out of the use of this macromodel.  It should be remembered that
* models are a simplification of the actual circuit.
* 
* Linear Technology reserves the right to change these macromodels
* without prior notice.  Contact Linear Technology at 1630 McCarthy
* Blvd., Milpitas, CA, 95035-7487 or telephone 408/432-1900 for
* datasheets on the actual amplifiers or the latest macromodels.
* 
* ----------------------------------------------------------------------- *
